US08097628B2
A mixture of 5-chloro-6-iodo-3-pyridinecarbaldehyde (260 mg, 0.972 mmol), trimethyl orthoformate (1.064 ml, 9.72 mmol), HCl (3M in MeOH) (0.778 ml, 2.333 mmol), DCM (1.5 ml) and MeOH (1.5 ml) was stirred at 50° C. for 3 h. TLC showed full conversion. The solution was cooled to room temperature and concentrated under vacuum. The residue was diluted with sat. NaHCO3 and EtOAc. Extraction, drying (MgSO4), filtration, and concentration afforded 271.5 mg of crude material. Purification by flash chromatography using Flashmaster II, a 5 g silica gel cartridge, and mixtures of hexane and EtOAc as eluent afforded 5-[bis(methyloxy)methyl]-3-chloro-2-iodopyridine (239.9 mg, 79%) as a yellow oil. It will be used in the next step without further purification.

reactant | 5-chloro-6-iodo-3-pyridinecarbaldehyde | 0.972 mmol, 260 mg | ClC=1C=C(C=NC1I)C=O | C6H3ClINO
reactant | trimethyl orthoformate | 9.72 mmol, 1.064 ml | C(OC)(OC)OC | C4H10O3
reactant | HCl | 2.333 mmol, 3M, 0.778 ml | Cl | ClH
reactant | DCM | 1.5 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 1.5 ml | CO | CH4O
product | 5-[bis(methyloxy)methyl]-3-chloro-2-iodopyridine | 239.9 mg, 79% | COC(C=1C=C(C(=NC1)I)Cl)OC | C8H9ClINO2
